US08957205B2
N-[[1-[(2-Furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valine ethyl ester
30 ml of dimethylformamide was added to a flask charged with 5 g (27 mmol) of L-valine ethyl ester hydrochloride and 5 g (22.8 mmol) of 2-(2-furanyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one. Then, 3.53 g (27.4 mmol) of diisopropylethylamine was added thereto, and the mixture was stirred for 3 days. After the solvent was distilled off under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with a 10% aqueous potassium hydrogensulfate solution and saturated brine, followed by drying with sodium sulfate. After the solvent was distilled off under reduced pressure, it was purified by silica gel chromatography to obtain 8.3 g (quantitative) of the title compound.

reactant | L-valine ethyl ester hydrochloride | 27 mmol, 5 g | Cl.C(C)OC([C@@H](N)C(C)C)=O
reactant | 2-(2-furanyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 22.8 mmol, 5 g | O1C(=CC=C1)C1=NC2(C(O1)=O)CCCCC2 | C12H13NO3
reactant | diisopropylethylamine | 27.4 mmol, 3.53 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[[1-[(2-Furanylcarbonyl)amino]cyclohexyl]carbonyl]-L-valine ethyl ester | C(C)OC([C@@H](NC(=O)C1(CCCCC1)NC(=O)C=1OC=CC1)C(C)C)=O | C19H28N2O5
